US04683091
A mixture of 50 g of 3,4-dibromothiophene, 30 g of 85% potassium propyl mercaptide and 4.5 g of Carbowax® 2000 in 50 ml of xylene was heated at reflux for 18 hours. The reaction was cooled, an additional 9 g of the mercaptide was added, and refluxing was continued for an additional 31 hours. After cooling, the mixture was filtered and the filtrate distilled to provide 10.6 g (21.3%) of 3-bromo-4-(propylthio)thiophene, bp 91°-102° C. (1.4 mm).

reactant | 3,4-dibromothiophene | 50 g | BrC1=CSC=C1Br | C4H2Br2S
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-bromo-4-(propylthio)thiophene | 10.6 g, 21.3% | BrC1=CSC=C1SCCC | C7H9BrS2
